US06380387B1
To a suspension of zinc dust (30 mmol, 2.0 g) in THF (3.0 mL) was added 1,2-dibromoethane (2.0 mmol, 0.174 mL) at room temperature. This suspension was heated to 60-65° C. with a heat gun until evolution of ethylene gas ceased (observed). This process was repeated three times. Then, the suspension was cooled to r.t. and trimethylchlorosilane (1.0 mmol, 0.15 mL) was added and the mixture was stirred for 10 min. A hot (the iodo compound was not very soluble in either solvent and it precipitated upon cooling to room temperature) solution of 5-iodo-1,3-dimethyluracil (11.0 mmol, 2.92 g) in THF (3.0 mL) and DMA (10 mL) was added to the zinc suspension. After addition, the mixture was heated to 73° C. The internal temperature of the reaction mixture rose to 77-78° C., due to the exothermic reaction. The reaction mixture was stirred at a bath temperature of 73° C. for 1.5 h and then was cooled to room temperature and stirred another 1.5 h. 1H-NMR of a hydrolysate of a 0.25 mL aliquot of the mixture indicated the presence of traces of starting material and iodolysis of a 0.25 mL aliquot of the mixture gave the iodide back. The reaction mixture was heated to 70° C. and stirred for another 30 min. The reaction mixture was diluted with THF (5 mL) after cooling to room temperature and the excess zinc was allowed to settle for 30-60 min. The above prepared zinc compound (5.5 mmol) was added to a suspension of Pd(dba)2 (0.07 mmol, 40 mg), trifurylphosphine (TFP) (0.26 mmol, 66.6 mg) and Boc-4-iodo-L-phenylalanine methyl ester (4.5 mmol, 1.823 g) in THF (10 mL) at room temperature and the light yellow mixture was stirred for 15 h. The mixture was poured into a saturated ammonium chloride solution and was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solution gave the crude product which was purified by column chromatography to obtain 0.80 g (43%) of N-[(1,1-dimethylethoxy)carbonyl]-4-[1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)]-L-phenylalanine methyl ester as a white solid: mp 65-69° C. EI-HRMS m/e calcd for C21H27N3O6 (M+) 418.1978, found 418.1965.

reactant | trifurylphosphine | 0.26 mmol, 66.6 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | Boc-4-iodo-L-phenylalanine methyl ester | 4.5 mmol, 1.823 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)I)=O | C15H20INO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
catalyst | zinc | 5.5 mmol | [Zn] | Zn
catalyst | Pd(dba)2 | 0.07 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
